US04478842
To 11.77 g of 1-(2-ethoxycarbonylmethyl)-2-(3-pyridyl)-3-methylindole in 400 ml of dry tetrahydrofuran at 0° is added 60 ml of a 1 M solution of lithium aluminum hydride in tetrahydrofuran. This is allowed to stir at room temperature for 1 hour, then cooled by an ice bath and quenched successively with 2.26 ml of water, 2.26 ml of a 15% sodium hydroxide solution, and 6.78 ml of water. The mixture is filtered, concentrated in vacuo, and the residue dissolved in ether, washed with a saturated NaHCO3 solution, dried over MgSO4 and concentrated in vacuo. There is obtained the semi-solid 1-(2-hydroxyethyl)-2-(3-pyridyl)-3-methylindole which is used directly in the next step.

reactant | 1-(2-ethoxycarbonylmethyl)-2-(3-pyridyl)-3-methylindole | 11.77 g | CCOC(=O)CN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C18H18N2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 1-(2-hydroxyethyl)-2-(3-pyridyl)-3-methylindole | OCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C16H16N2O
